US05455252
2-bromo-4-cyclopentylmethylaniline and 3-chlorobenzene boronic acid can be combined to form 2-(3-chlorophenyl)-4-cyclopentylmethylaniline,

reactant | 2-bromo-4-cyclopentylmethylaniline | BrC1=C(N)C=CC(=C1)CC1CCCC1 | C12H16BrN
reactant | 3-chlorobenzene boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 2-(3-chlorophenyl)-4-cyclopentylmethylaniline | ClC=1C=C(C=CC1)C1=C(N)C=CC(=C1)CC1CCCC1 | C18H20ClN
